US06071928
(c) 3-Bromo-4isopropoxyaniline
Platinum oxide (50 mg) was added to a solution of 2-isopropoxy-5-nitrobromobenzene (1.7 g, 6.5 mmol) in ethyl acetate (50 ml) and the mixture was stirred under hydrogen (50 psi) for 1 hour. The mixture was filtered, further platinum oxide (50 mg) was added and the mixture was stirred under hydrogen (50 psi) for 1 hour. The mixture was filtered and the solvent was evaporated under reduced pressure. The residue was purified by flash chromatography, eluting with hexane/EtOAc (80:20), to give the title compound (0.92 g, 62%); δH (360MHz, CDCl3) 1.32 (3H, d, J 5.6Hz, OCH(CH3)2), 4.33 (1H, m, OCH(CH3)2), 6.57 (1H, dd, J 8.7, 2.8Hz, 6-H), 6.78 (1H, d, J 8.7Hz, 5-H), 6.91 (1H, d, J 2.8 Hz, 2-H).

reactant | 2-isopropoxy-5-nitrobromobenzene | 6.5 mmol, 1.7 g | C(C)(C)OC1=C(C=C(C=C1)[N+](=O)[O-])Br | C9H10BrNO3
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | Platinum oxide | 50 mg | [Pt]=O
product | 3-Bromo-4isopropoxyaniline | 0.92 g, 62% | BrC=1C=C(N)C=CC1OC(C)C | C9H12BrNO
